Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ who is an active IV drug user, who was recently diagnosed 
with MRSA bacteremia ___ spinal ostemyeltiis and paraspinal 
abscess, on IV vanc since ___, who was sent home from ___ 
for having IVDU paraphernalia and now returns to resume IV 
antibiotics. 

She was diagnosed with MRSA bacteremia, T11-T12 spinal 
osteomyelitis and paraspinal abscess at ___, where she left 
AMA because they "did not respect her." She then went to ___ 
___ where she was started on IV Antibiotics and an 
abscess was apparently drained. Plan was for 8 weeks of 
Vancomycin, from day 1 of ___. She was eventually discharged to 
the ___ with a ___ Line, where she was continued 
on IV Vancomycin as well as Pain control. She was discharged 
from there yesterday as she broke their rules for staying 
outside too long with PICC in place (per patient) vs for 
possession of heroin paraphernalia (per ___. She was 
supposed to get about 6 more week of IV ABx. Her PICC was 
removed, and she then went home and used IV opioids last night.

She returned to ___ ED today w/concern over her infection and 
pain control. She is worried about her infection "eating away 
her spine". When asked why she did not return to ___, she said 
she did not think they would want her back as she was discharged 
from there.

In the ED, initial vitals were: 98.5 110 127/77 18 100% RA. HRs 
ranged ___. Labs were notable for: CRP 82. CBC/chem panel 
unremarkable. Vanco trough 17.5. Utox + for cocaine, opiates, 
benzos, oxycodone. Neg for barbituates. 

Patient was given:  Her regimen from ___ of Oxycontin 20mg 
BID, Dilaudid PO 4mg Q4 PRN, Clonazepam 1mg QID, Wellbutrin 100 
qAM, Abilify 10 mg qHS, Gabapentin 800mg QID, Lidocaine patch. 
Vancomycin 1250 q8 hrs, and levels had been checked. 

Right PICC was placed. 

On the floor, she denies ___ weakness or numbness. Denies fever, 
chills, bowel/bladder incontinence. Complaining of pain and 
anxiety.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
h/o hepatitis C (cleared on its own)
history of IV drug use
history of cocaine use 
asthma
anxiety
 
Social History:
___
Family History:
grandmother had uterine cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  98.4 120/90 118 20 100 RA
General: Alert, oriented, no acute distress, talks fast 
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: fast rate and reg rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Back: TTP over cervical and thoracic spine. No fluctaunce. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally, 
gait normal.

DISCHARGE PHYSICAL EXAM:  
Vitals:  98.8 110s-130s/60s ___ 99 RA
General: Alert, oriented, no acute distress, lying in bed sleepy 
appearing this morning
HEENT: PERRL. Sclera anicteric, MMM, oropharynx clear, EOMI, 
PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: reg rate and reg rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Back: TTP over thoracic and lumbar spine. No fluctaunce. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally, 
gait normal.
 
Pertinent Results:
LABS:
===========

ADMISSION LABS: 

___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 09:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:20PM URINE  bnzodzpn-POS barbitrt-NEG opiates-POS 
cocaine-POS amphetmn-NEG oxycodn-POS mthdone-NEG
___ 09:20PM URINE  GR HOLD-HOLD
___ 09:20PM URINE  UCG-NEGATIVE
___ 09:20PM URINE  HOURS-RANDOM
___ 09:20PM URINE  HOURS-RANDOM
___ 10:16PM   PLT COUNT-281
___ 10:16PM   NEUTS-50.7 ___ MONOS-8.2 EOS-7.9* 
BASOS-0.5 IM ___ AbsNeut-3.78 AbsLymp-2.42 AbsMono-0.61 
AbsEos-0.59* AbsBaso-0.04
___ 10:16PM   WBC-7.5 RBC-3.98 HGB-11.4# HCT-35.4 MCV-89 
MCH-28.6 MCHC-32.2 RDW-15.5 RDWSD-50.6*
___ 10:16PM   CRP-82.5*
___ 10:16PM   estGFR-Using this
___ 10:16PM   GLUCOSE-94 UREA N-11 CREAT-0.8 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-97 TOTAL CO2-29 ANION GAP-14
___ 10:23PM   LACTATE-1.0

PERTINENT RESULTS:
___ 10:16PM BLOOD CRP-82.5*
___ 06:06AM BLOOD Vanco-21.1*
___ 06:06AM BLOOD WBC-6.4 RBC-3.71* Hgb-10.5* Hct-33.4* 
MCV-90 MCH-28.3 MCHC-31.4* RDW-15.2 RDWSD-50.2* Plt ___
___ 06:06AM BLOOD Glucose-101* UreaN-17 Creat-0.8 Na-138 
K-3.8 Cl-105 HCO3-26 AnGap-11
___ 06:06AM BLOOD Vanco-21.1*

NO LABS DRAWN ON DAY OF DISCHARGE

IMAGING:
=========

___ MRI T SPINE W/ AND W/O CONTRAST

1. Osteomyelitis at T11-T12 with significant interval decrease 
in the size of 
the anterior paraspinal abscess at T11-T12 as well as in the 
extensive 
paraspinal phlegmon extending from T9-L2. 
2. New, tiny anterior epidural abscess at T11, which does not 
contact the 
spinal cord or cause spinal canal stenosis. 
  
___ CXR
 
1. Right PICC terminating in the mid SVC. 
2. Clear lungs. 

MICRO
==========

___ BLOOD CULTURES X2 NO GROWTH TO DATE
 
Brief Hospital Course:
Ms. ___ is a ___ hx with active IVDU, resolved HCV 
recently admitted to ___ with MRSA prevertebral abscess and 
prior MRSA bacteremia (diagnosed at ___ from which 
she had left AMA), discharged on Vancomycin w/o intervention 
given small size of abscess and no cord impingement.  The 
patient was discharged from ___ to the ___ with PICC and 
plan for 8 weeks on vanco but was discharged from ___ due 
to rules violation (c/f ongoing illicit drug use during her 
admission at ___ and ?falsifying drug tests).

HOSPITAL COURSE: 

Ms. ___ was admitted to ___ on ___ to resume 
antibiotics. MRI was done during her admission at ___ which 
showed smaller size of prevertebral abscess, new tiny anterior 
epidural abscess at T11.  Infectious disease team was consulted 
and recommended ongoing treatment with vancomycin. She was 
continued on her regimen for pain from ___:  OxyconTIN 20 
mg PO Q12H, Dilaudid 4 mg PO/NG Q4H:PRN pain. 

During her admission to ___, there was concern that patient 
was continuing to use illicit substances and "checking" narcotic 
pain pills.  There was concern that she was smoking in her room, 
and cigarettes were confiscated.  Additionally, the patient was 
noted to have a labile mood,  concerning for possibly being 
under the influence of illicit substances.  Thus on ___, a 
urine tox screen was done which was positive for cocaine.  The 
patient reported using cocaine prior to her admission (___) and 
felt this was reasoning for her positive test.  Team meeting was 
held with the patient after urine tox screen results were 
available.  Room search was done by security which found 2 packs 
of cigarettes but no illicit substances, however did find 
medication tablet packaging concerning for evidence that patient 
was not taking medication as prescribed and may have been saving 
narcotic medications.  Patient was told that if there were 
further rules violations or concern for ongoing illicit drug 
use, then visitors would be restricted.  Patient became severely 
agitated and confrontational at this suggestion of not allowing 
visitors. Patient threatened to leave AMA, but was convinced to 
stay for ongoing treatment.  It was made clear that should 
further violations occur, then visitors would not be allowed.  
~3 hours after the above noted meeting with the patient, after 
narcotic administration the patient was noted to be attempting 
to self-induce vomiting and was found to have a syringe.  
Patient was then told that visitors would no longer be allowed.  
Patient then elected to be discharged AMA (against medical 
advice).  She was advised to stay at ___ for continued 
management of her spinal infection which she declined.  She was 
counseled that she should go to the nearest ER so that her 
treatment for MRSA osteomyelitis/ epidural abscess and 
paraspinal abscess could conTinue.  Patient was counseled that 
should she leave AMA and forego treatment, she was increasing 
her risk of worsening infection and death.  Patient understood 
these risks, and elected to leave AMA.

Transitional Issues:
===========================
[ ] Recommend patient seek drug counseling
[ ] Recommend patient present to emergency department for 
ongoing treatment of osteomyelitis and paraspinal and epidural 
abscesses. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
2. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
3. ClonazePAM 1 mg PO QID 
4. BuPROPion 100 mg PO DAILY 
5. ARIPiprazole 10 mg PO QHS 
6. Gabapentin 800 mg PO QID 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Vancomycin 1250 mg IV Q 8H 
9. Acetaminophen 1000 mg PO Q8H 
10. Nicotine Patch 14 mg TD DAILY 

 
Discharge Medications:
1. ARIPiprazole 10 mg PO QHS 
2. BuPROPion 100 mg PO DAILY 
3. ClonazePAM 1 mg PO QID 
4. Gabapentin 800 mg PO QID 
5. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
8. Vancomycin 1250 mg IV Q 8H 
9. Acetaminophen 1000 mg PO Q8H 
10. Nicotine Patch 14 mg TD DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
spinal osteomyelitis
epidural abscess
paraspinal abscess

SECONDARY DIAGNOSES:
intravenous drug use
MRSA bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ to resume IV antibiotics for your 
infection of the spine.  We did an MRI of the spine which showed 
ongoing infection of your spine.  You were seen by the 
infectious disease doctors who recommended ___ treatment 
with IV antibiotics as well as evaluation by the spine surgeons 
for possible drainage of the abscess.  You elected to leave 
against medical advice.  You were advised that leaving the 
hospital and not seeking ongoing treatment could result in 
worsening of your infection, and adverse health outcomes up and 
including death.  You understood these risks and elected to 
leave.  You may return to the ___ 
___ emergency department should you decide to resume 
treatment here.  If not, you should present to an alternate 
emergency department and continue treatment of your spine 
infection.

-Your ___ team
 
Followup Instructions:
___